US09145380B2
b) (E)-2-(4-Benzofuran-2-ylphenyl)ethenesulfonic acid
1-Bromo-4-[(E)-2-ethoxysulfonylethenyl]benzene (1.0 g, 3.4 mmol) and benzofuran-2-boronic acid (0.61 g, 3.7 mmol) were dissolved in DMF (20 mL). Sodium carbonate (2M, 10 mL) and tetrakis(triphenylphosphine)palladium(0) (200 mg, 0.17 mmol) were added and the resulting mixture was stirred under argon at 90° C. for 12 h. Water was added to the mixture and the resulting precipitate was collected, washed with water and dried to give the product as a sodium salt which was used in the next step without further purification (0.38 g, 35%).

reactant | 1-Bromo-4-[(E)-2-ethoxysulfonylethenyl]benzene | 3.4 mmol, 1.0 g | BrC1=CC=C(C=C1)\C=C\S(=O)(=O)OCC | C10H11BrO3S
reactant | benzofuran-2-boronic acid | 3.7 mmol, 0.61 g | O1C(=CC2=C1C=CC=C2)B(O)O | C8H7BO3
reactant | Sodium carbonate | 2M, 10 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | Water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.17 mmol, 200 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (E)-2-(4-Benzofuran-2-ylphenyl)ethenesulfonic acid | O1C(=CC=C2C1=CC=C2)C2=C(C=CC=C2)/C=C/S(=O)(=O)O | C16H12O4S
